US05324449
A Grignard compound is prepared from 1.2 g of magnesium, 50 ml of THF and 11.4 g of 4-pentyl-bromobenzene in 25 ml of THF. When the addition is complete, the mixture is refluxed for a further I hour and cooled to 10°, and 14 g of 4-trifluoromethoxy-bromobenzene in 25 ml of THF and 0.73 g of PdCl2 (dppf) are added. The cooling is removed, but the reaction mixture should not climb above 20°. The mixture is subsequently stirred at room temperature for 16 hours, poured into 100 ml of saturated NH4Cl solution a nd stirred for a further 15 minutes, and the organic phase is then worked up. After purification by crystallization, trifluoromethoxy-4-(4-pentylphenyl)benzene having C 67° I is obtained.

reactant | magnesium | 1.2 g | [Mg] | Mg
reactant | 4-pentyl-bromobenzene | 11.4 g | C(CCCC)C1=CC=C(C=C1)Br | C11H15Br
reactant | 4-trifluoromethoxy-bromobenzene | 14 g | FC(OC1=CC=C(C=C1)Br)(F)F | C7H4BrF3O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
catalyst | PdCl2 | 0.73 g | Cl[Pd]Cl
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | trifluoromethoxy-4-(4-pentylphenyl)benzene | FC(OC1=CC=C(C=C1)C1=CC=C(C=C1)CCCCC)(F)F | C18H19F3O
